* Created by KLayout
*** My special header ***

* cell CMC_S_NMOS_B_X1_Y1
* pin G
* pin DA
* pin SA
* pin DB
* pin SB
* pin GND
.SUBCKT CMC_S_NMOS_B_X1_Y1 G DA SA DB SB GND
* device instance $1 r0 *1 20.3,3.9 NMOS
M$1 DB G SB GND NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $2 r0 *1 4.3,3.9 NMOS
M$2 DA G SA GND NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS CMC_S_NMOS_B_X1_Y1
